US04198514
In the same manner as Example 1-(b), 47.5 g of ethyl 3-(4-chlorophenyl)-2-cyanopropionate was reacted with ethyl 2-bromopropionate to obtain ethyl 5-(4-chlorophenyl)-4-cyano-4-ethoxycarbonylvalerate.

reactant | ethyl 3-(4-chlorophenyl)-2-cyanopropionate | 47.5 g | ClC1=CC=C(C=C1)CC(C(=O)OCC)C#N | C12H12ClNO2
reactant | ethyl 2-bromopropionate | BrC(C(=O)OCC)C | C5H9BrO2
product | ethyl 5-(4-chlorophenyl)-4-cyano-4-ethoxycarbonylvalerate | ClC1=CC=C(C=C1)CC(CCC(=O)OCC)(C(=O)OCC)C#N | C17H20ClNO4
